US03953460
1-Nitro-2-methylamino-2-[2-(2-(4-imidazolyl)ethylthio)ethylamino]ethylene
4-[2-(2-Aminoethylthio)ethyl]imidazole (from the dihydrobromide (4.0 g)) is reacted with 1-nitro-2,2-bis-methylthioethylene (2.0 g) by the procedure of Example 4(i) and the resultant 1-nitro-2-methylthio-2-[2-(2-(4-imidazolyl)ethylthio)ethylamino]ethylene is treated with methylamine according to the procedure of Example 3(ii) to yield the title compound.

reactant | 4-[2-(2-Aminoethylthio)ethyl]imidazole | NCCSCCC=1N=CNC1 | C7H13N3S
reactant | 1-nitro-2,2-bis-methylthioethylene | 2.0 g | [N+](=O)([O-])C=C(SC)SC | C4H7NO2S2
reactant | 1-nitro-2-methylthio-2-[2-(2-(4-imidazolyl)ethylthio)ethylamino]ethylene | [N+](=O)([O-])C=C(NCCSCCC=1N=CNC1)SC | C10H16N4O2S2
reactant | methylamine | CN | CH5N
product | 1-Nitro-2-methylamino-2-[2-(2-(4-imidazolyl)ethylthio)ethylamino]ethylene | [N+](=O)([O-])C=C(NCCSCCC=1N=CNC1)NC | C10H17N5O2S
